US08377922B2
1-(d) Ethyl 3-oxo-8-[2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate hydrochloride
To 11 mL of an ethanol solution containing 0.28 g (0.57 mmol) of ethyl 8-[2-(imidazo[1,2-a]pyrimidin-2-yl)ethoxy]-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetra-hydro-1H-2-benzazepin-4-acetate obtained in Example 1-(c) were added 5.5 mL of 3.2M hydrogen chloride/ethanol solution and 0.14 g of 10% palladium carbon, and the mixture was stirred under hydrogen atmosphere at room temperature for 1 hour.

reactant | ethyl 8-[2-(imidazo[1,2-a]pyrimidin-2-yl)ethoxy]-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetra-hydro-1H-2-benzazepin-4-acetate | 0.57 mmol, 0.28 g | N=1C(=CN2C1N=CC=C2)CCOC2=CC1=C(CC(C(N(C1)CC(F)(F)F)=O)CC(=O)OCC)C=C2 | C24H25F3N4O4
reactant | hydrogen chloride ethanol | 3.2M, 5.5 mL | Cl.C(C)O
catalyst | palladium carbon | 0.14 g | [C].[Pd]
solvent | ethanol | 11 mL | C(C)O | C2H6O
product | Ethyl 3-oxo-8-[2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate hydrochloride | Cl.O=C1N(CC2=C(CC1CC(=O)OCC)C=CC(=C2)OCCC=2N=C1N(CCCN1)C2)CC(F)(F)F | InChI=1S/C24H29F3N4O4.ClH/c1-2-34-21(32)12-17-10-16-4-5-20(11-18(16)13-31(22(17)33)15-24(25,26)27)35-9-6-19-14-30-8-3-7-28-23(30)29-19;/h4-5,11,14,17H,2-3,6-10,12-13,15H2,1H3,(H,28,29);1H
